US03973028
A solution of 8.0 g (0.034 mols) of 3-tert.butyl-4H-1,2,4-triazol-5-yl-N,N-dimethylsulfonamide and 3.4 g (0.06 mol) of methyl isocyanate in 20 ml of triethylamine is stirred overnight at room temperature. The solvent is evaporated under vacuum and the residue is slurried in water. The resultant solid is collected by filtration and recrystallized from ethanol to give 1-N-methylcarbamyl-3-tert.butyl-1,2,4-triazol-5-yl-N,N-dimethylsulfonamide, m.p. 193°-194.5°.

reactant | 3-tert.butyl-4H-1,2,4-triazol-5-yl-N,N-dimethylsulfonamide | 0.034 mols, 8.0 g | C(C)(C)(C)C1=NN=C(N1)S(=O)(=O)N(C)C | C8H16N4O2S
reactant | methyl isocyanate | 0.06 mol, 3.4 g | CN=C=O | C2H3NO
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 1-N-methylcarbamyl-3-tert.butyl-1,2,4-triazol-5-yl-N,N-dimethylsulfonamide | CNC(=O)N1N=C(N=C1S(=O)(=O)N(C)C)C(C)(C)C | C10H19N5O3S
